US05070088
A. 2,6-Dihydro-2,2-dimethyl-5H-pyrano[3,2-c]-quinolin-5-one
To a boiling solution of 2,4-dihydroxy quinoline (5.0 g, 31 mmol) in pyridine (300 ml) under argon was added anhydrous magnesium sulfate (20 g) followed by 3-methyl-2-butenal (2.6 g, 31.0 mmole). The reaction was heated under reflux for 16 hours. After 12 hours, more 3-methyl-2-butenal (1.3 g, 15.5 mmol) was added and the reaction was heated under reflux for 16 more hours. The reaction was diluted with 10% methanol in chloroform (200 ml) and filtered while hot. The solid was washed with hot solvent (10% methanol in chloroform) and the filtrate was concentrated in vacuo and coevaporated with toluene. The resulting solid was triturated with isopropyl ether to give the title A compound (4.5 g), m.p. 174° C.-177° C.: 1H NMR (DMSO-d6 /CDCl3) ppm: δ7.7 (d, 1H, J =8.0 Hz), 7.4 (d, 1H, J = 9.0 Hz), 7.2 (d, 1H, J =8.0 Hz), 7.1 (dd, 1H, J =7 & 8 Hz), 6.5 (d, 1H, J =8.0 Hz), 5.5 (d, 1H, J =9.0 Hz), 3.3 (s, 1H), 1.34 (2 s, 6H); 13C NMR (DMSO-d6 /CDCl3) ppm: 160.8, 158.7, 136.5, 128.9, 120.9, 120.2, 119.7, 115.0, 113.6, 113.4, 103.7, 76.7, 26.0.

reactant | 2,4-dihydroxy quinoline | 31 mmol, 5.0 g | OC1=NC2=CC=CC=C2C(=C1)O | C9H7NO2
reactant | magnesium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 3-methyl-2-butenal | 31.0 mmole, 2.6 g | CC(=CC=O)C | C5H8O
reactant | 3-methyl-2-butenal | 15.5 mmol, 1.3 g | CC(=CC=O)C | C5H8O
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,6-Dihydro-2,2-dimethyl-5H-pyrano[3,2-c]-quinolin-5-one | 4.5 g | CC1(C=CC=2C(NC=3C=CC=CC3C2O1)=O)C | C14H13NO2
